US05817647
9-(3-Diethoxyphosphorylmethoxy-2-methylidene propyl)6-chloro-2-aminopurine
A mixture of (2-chloromethyl-2-propenyloxymethyl)-phosphonic acid diethylester (0.285 g, 1.1 mmol), 6-chloro-2-aminopurine (0.25 g, 1.5 mmol) and potassium carbonate (0.24 g, 1.5 mmol) in anhydrous dimethylformamide is stirred 2 days at 20° C. Then the reaction mixture is concentrated in vacuo and the title product is obtained by flash chromatography on silica gel (0.22 g, 51%).

reactant | (2-chloromethyl-2-propenyloxymethyl)-phosphonic acid diethylester | 1.1 mmol, 0.285 g | C(C)OP(OCC)(=O)COCC(=C)CCl | C9H18ClO4P
reactant | 6-chloro-2-aminopurine | 1.5 mmol, 0.25 g | ClC1=C2NC=NC2=NC(=N1)N | C5H4ClN5
reactant | potassium carbonate | 1.5 mmol, 0.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 9-(3-Diethoxyphosphorylmethoxy-2-methylidene propyl)6-chloro-2-aminopurine | C(C)OP(=O)(OCC)COCC(CN1C2=NC(=NC(=C2N=C1)Cl)N)=C | C14H21ClN5O4P
